US09144239B2
Step 4: Preparation of (S)-methyl 2-(((benzyloxy)carbonyl)amino)-3-((2S,3R)-2,3-bis((2-methylallyl)oxy)-4-oxobutoxy)propanoate
To a solution of (S)-methyl 2-(((benzyloxy)carbonyl)amino)-3-((2S,3S)-4-hydroxy-2,3-bis((2-methylallyl)oxy)butoxy)propanoate (3.96 g, 8.51 mmol) in CH2Cl2/DMSO (56.7 mL, ratio: 5/1) at 0° C. was added TEA (5.93 ml, 42.5 mmol) followed by sulfur trioxide pyridine complex (4.06 g, 25.5 mmol) and the reaction was slowly warmed to room temperature and stirred for 2 h. The reaction mixture was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic phases were washed with H2O and brine, dried over MgSO4, filtered, and the filtrate was concentrated. The crude residue was purified by flash chromatography (SiO2, hexanes/EtOAc gradient) to provide the title compound as a colorless oil (3.26 g, 83% yield): IR (neat) 3360, 2951, 1721, 1512, 1209, 1053 cm−1; 1H NMR (400 MHz, CDCl3) δ 9.69 (d, J=1.0 Hz, 1H), 7.41-7.27 (m, 5H), 5.65 (d, J=8.7 Hz, 1H), 5.17-5.08 (m, 2H), 4.96-4.92 (m, 2H), 4.90 (d, J=14.8 Hz, 2H), 4.47 (dt, J=8.7, 2.9 Hz, 1H), 4.10 (d, J=12.4 Hz, 1H), 3.97-3.88 (m, 4H), 3.85-3.78 (m, 2H), 3.75 (s, 3H), 3.65 (dd, J=9.5, 3.2 Hz, 1H), 3.62 (d, J=4.5 Hz, 2H), 1.74 (s, 3H), 1.69 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 202.61, 170.65, 156.16, 141.73, 141.27, 136.42, 128.63, 128.26, 128.17, 113.83, 113.23, 82.49, 78.16, 75.45, 75.01, 71.55, 69.39, 67.16, 54.49, 52.70, 19.62, 19.55; ESIMS m/z 486.2 ([M+Na]+).

reactant | (S)-methyl 2-(((benzyloxy)carbonyl)amino)-3-((2S,3S)-4-hydroxy-2,3-bis((2-methylallyl)oxy)butoxy)propanoate | 8.51 mmol, 3.96 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)COC[C@@H]([C@H](CO)OCC(=C)C)OCC(=C)C | C24H35NO8
solvent | CH2Cl2 DMSO | 56.7 mL | C(Cl)Cl.CS(=O)C
product | (S)-methyl 2-(((benzyloxy)carbonyl)amino)-3-((2S,3R)-2,3-bis((2-methylallyl)oxy)-4-oxobutoxy)propanoate | 3.26 g, 83% yield | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)COC[C@@H]([C@H](C=O)OCC(=C)C)OCC(=C)C | C24H33NO8
